US20010036946A1
c) Methyl 4-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-3-nitrobenzoate
To a solution of 41.0 g (0.215 mol) of 4-amino-1-(phenylmethyl)-piperidine and 45.0 g (0.215 mol) of 4-(methoxycarbonyl)-2-nitrobenzaldehyde in 11 methanol were added in batches, at room temperature, 8.3,g (0.22 mol) of sodium borohydride and the mixture was then stirred for 30 minutes at the same temperature. The mixture was stirred into 11 of ice water and thoroughly extracted with tert. butyl-methylether. The combined extracts were dried over sodium sulphate and evaporated down in vacuo, the residue was dissolved in as little methanol as possible and converted into the hydrochloride by treatment with methanolic hydrogen chloride solution. The crystalline salt was suction filtered, washed with methanol and diethylether, then taken up in water and made alkaline with saturated aqueous potassium carbonate solution. The mixture obtained was extracted thoroughly with ethyl acetate, the combined ethyl acetate extracts were dried over sodium sulphate and evaporated down. 58.2 g (70.6% of theory) of a brownish-yellow oil were obtained, which was further processed without any more purification.

reactant | 4-amino-1-(phenylmethyl)-piperidine | 0.215 mol, 41.0 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | 4-(methoxycarbonyl)-2-nitrobenzaldehyde | 0.215 mol, 45.0 g | COC(=O)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C9H7NO5
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 4-[[[1-(phenylmethyl)-4-piperidinyl]amino]methyl]-3-nitrobenzoate | C1(=CC=CC=C1)CN1CCC(CC1)NCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C21H25N3O4
